US09255089B2
In a 2-5 mL Smith Process Vial, 2,3-dibromopyridine (300.0 mg, 1.266 mmol), 4-fluorophenyl boronic acid (177.2 mg, 1.266 mmol, 1 equiv) and Pd(PPh3)4 (73.2 mg, 0.063 mmol, 0.05 equiv) were placed. The mixture was suspended in 1,4-dioxane (3 mL) and 2M-Na2CO3 (1 mL) under a nitrogen atmosphere. The mixture was heated at 80° C. for 10 min using the microwave reactor. To the mixture were added EtOAc (70 mL) and water (30 mL). The whole was filtered through Celite (3 g) and the filtrate was washed with brine (30 mL), dried over Na2SO4 and concentrated under a reduced pressure. Obtained crude material was purified by Gilson preparative HPLC to give 3-bromo-2-(4-fluorophenyl)pyridine.

reactant | 2,3-dibromopyridine | 1.266 mmol, 300.0 mg | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | 4-fluorophenyl boronic acid | 1.266 mmol, 177.2 mg, 1 equiv | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.063 mmol, 73.2 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 mL | O | H2O
product | 3-bromo-2-(4-fluorophenyl)pyridine | BrC=1C(=NC=CC1)C1=CC=C(C=C1)F | C11H7BrFN
